US07135475B2
A solution of 1-trityl-1H-imidazole-4-carboxylic acid methyl ester (1.75 g, 4.60 mmol) in methanol (50 mL) at 25° C. was treated with a 1N aqueous sodium hydroxide solution (13.8 mL, 13.8 mmol). The reaction was stirred at 25° C. for 18 h and then heated to 50° C. for 1.5 h. At this time, the reaction was cooled to 25° C. and diluted with water (150 mL). The aqueous layer was brought to pH=1 by treatment with a 1N aqueous hydrochloric acid solution and then diluted with ethyl acetate (250 mL). The resulting precipitated product was collected by filtration. The filtrate was extracted with ethyl acetate (1×150 mL). The combined organics were then washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. The two batches of product were combined to afford 1-trityl-1H-imidazole-4-carboxylic acid (1.55 g, 95.1%.) as a white solid: LR-MS for C23H18N2O2 (M+H)+ at m/z=355.

reactant | 1-trityl-1H-imidazole-4-carboxylic acid methyl ester | 4.60 mmol, 1.75 g | COC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
reactant | sodium hydroxide | 13.8 mmol, 1N, 13.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 1-trityl-1H-imidazole-4-carboxylic acid | 1.55 g, 95.1% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(=O)O | C23H18N2O2
